### ISSUE TITLE
`apply` ignores reducibility hints in some cases

### ISSUE THREAD

**Issue by digama0** [leanprover/lean3#1906]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean/issues).
        * Specifically, check out the [wishlist](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3AI-wishlist), open [RFCs](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3ARFC),
        or [feature requests](https://github.com/leanprover/lean/issues?q=is%3Aissue+is%3Aopen+label%3AFeature).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

```lean
def foo : Type := sorry
@[irreducible] def foo.le (a b : foo) : Prop := ∀ n : nat, true
instance : has_le foo := ⟨foo.le⟩
instance : preorder foo :=
{ le := (≤), le_refl := sorry, le_trans := sorry }

example (a : foo) : a ≤ a := by refl
example (a : foo) : a ≤ a := by apply le_refl
example (a : foo) : a ≤ a := by tactic.mk_const `le_refl >>= tactic.apply_core
```

```
invalid apply tactic, failed to unify
  a ≤ a
with
  ∀ (a : ?m_1), a ≤ a
```

All three examples fail with the same error (they all call in to the third one), while other alternatives like `le_refl _` or `refine le_refl _` do not fail. The issue appears to be the forall in the definition of `foo.le`. Note that apply will unfold its way all the way to the bottom looking for a forall, even if it has to go through an irreducible definition like `foo.le` here. I assume this has something to do with the way that `apply` figures out how many arguments to apply. The `md` setting in `apply_core` has no effect on this bug.
